US08227458B2
trans-4-(Pyridin-2-yloxy)-cyclohexanecarboxylic acid hydrazide
A mixture of trans-4-(pyridin-2-yloxy)-cyclohexanecarboxylic acid methyl ester (1.33 g, 5.66 mmol) and hydrazine hydrate (0.55 ml, 11 mmol) in n-butanol (1 ml) was heated at 120° C. for 68 h. After cooling to room temperature the reaction mixture was evaporated and dried in high vacuo (ca. 1-2 mbar) at 100° C. for 2 h to give the crude title compound (1.28 g, 96%) as white solid, which was used in the next step without further purification. MS m/e: 236 (M+H+)

reactant | trans-4-(pyridin-2-yloxy)-cyclohexanecarboxylic acid methyl ester | 5.66 mmol, 1.33 g | COC(=O)[C@@H]1CC[C@H](CC1)OC1=NC=CC=C1 | C13H17NO3
reactant | hydrazine hydrate | 11 mmol, 0.55 ml | O.NN
solvent | n-butanol | 1 ml | C(CCC)O | C4H10O
product | trans-4-(Pyridin-2-yloxy)-cyclohexanecarboxylic acid hydrazide | 1.28 g, 96% | N1=C(C=CC=C1)O[C@@H]1CC[C@H](CC1)C(=O)NN | C12H17N3O2
